data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3421,3891,[CH3:10][c-:11]1[nH+:12][c:13]([C:14]#[N:15])[o:16][c:17]1=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]2([CH3:10])[NH:12][C:13]1([C:14]#[N:15])[O:16][C:17]2=[O:18],water,298.15,22.793320560846613,-4.120563394067626
4735,5408,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[O:22][CH3:23])[n+:24]1[CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([C:20](=[O:21])[O:22][CH3:23])[N:24]1[CH3:25],water,298.15,29.484400594242373,16.289366429029094
3193,3604,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[NH+:12]=[CH:13][C:14]([CH3:15])=[O:16]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]#[N:11])[NH:12][CH:13]1[C:14]([CH3:15])=[O:16],water,298.15,19.099299998185245,-24.60563901252376
515,562,[CH3:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[CH:19][C:20]#[N:21].[F:1][CH:2]1[C:3]#[C:4][C:5]([F:6])([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[F:1][CH:2]1[C:3]2=[C:4]([C:5]([F:6])([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:15]([C:13]([CH3:12])=[O:14])([CH3:16])[N:17]([CH3:18])[CH:19]2[C:20]#[N:21],water,298.15,11.53829047023041,-52.16756407973138
1628,1799,[CH3:15][O:16][C:17](=[O:18])[CH:19]=[O+:20][C-:21]([CH3:22])[C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([CH3:22])[C:23]#[N:24],water,298.15,10.190599631438449,-67.80003469857104
521,568,[CH3:11][N+:12]([NH-:13])=[C:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[NH:13][N:12]([CH3:11])[C:14]2([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,19.84971186552577,-15.533008740588574
4771,5449,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[O+:18]=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:18][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,15.865458008487115,-12.749194415617565
439,481,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:19]([CH3:20])=[O:21])[N:14]=[C:15]2[C:16]([CH3:17])=[O:18],water,298.15,14.8864928152483,-46.0319895948513
639,699,[CH3:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[CH3:22].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:15]([C:13]([CH3:12])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[C:20]3([CH3:21])[CH3:22],water,298.15,29.37561838495059,-20.192365254700054
2404,2669,[CH3:17][NH:18][C:19](=[O:20])[CH:21]=[O+:22][C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH:13]=[CH:14][CH:15]1[O:16]3)[CH:21]([C:19]([NH:18][CH3:17])=[O:20])[O:22][C:23]2([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,17.799767670182916,-38.54858341862204
2965,3314,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]#[N+:10][N-:11][C:12]#[N:13]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:11]([C:12]#[N:13])[N:10]=[C:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,12.858907200988355,-48.35717792135761
3185,3595,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][O-:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][O:16]1,water,298.15,21.411655519906063,-26.47144132462309
